US06051712
By alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-(p-tolyl)-piperidine-1-carboxylate with 2-bromomethylnaphthalene there was obtained tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-p-tolyl-piperidine-1-carboxylate as a colourless oil; MS: 431 (M)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-(p-tolyl)-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)C)C(=O)OC(C)(C)C | C17H25NO3
reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-p-tolyl-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)C)C(=O)OC(C)(C)C | C28H33NO3
